US07544703B2
2-(2-Aminopyridin-4-ylmethylthio)-N-carboxymethyl-N-(3,5-dimethylphenyl)pyridine-3-carboxamide monohydrochloride (Compound No. 11-1)
2-(2-Aminopyridin-4-ylmethylthio)-N-(tert-butoxycarbonylmethyl)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 7-1, 40 mg, 0.084 mmol) was dissolved in ethyl acetate (1.0 mL), and 4 N hydrochloric acid in ethyl acetate (1.0 mL) was added thereto, and then the mixture was stirred for 18 hours at room temperature. The precipitated solid was filtered off with diethyl ether and dried under reduced pressure to give 30 mg of the target compound as a colorless solid. (Yield 86%)

reactant | 2-(2-Aminopyridin-4-ylmethylthio)-N-(tert-butoxycarbonylmethyl)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)N(C1=CC(=CC(=C1)C)C)CC(=O)OC(C)(C)C | C26H30N4O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Aminopyridin-4-ylmethylthio)-N-carboxymethyl-N-(3,5-dimethylphenyl)pyridine-3-carboxamide monohydrochloride | 30 mg, Yield 86% | Cl.NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)N(C1=CC(=CC(=C1)C)C)CC(=O)O | InChI=1S/C22H22N4O3S.ClH/c1-14-8-15(2)10-17(9-14)26(12-20(27)28)22(29)18-4-3-6-25-21(18)30-13-16-5-7-24-19(23)11-16;/h3-11H,12-13H2,1-2H3,(H2,23,24)(H,27,28);1H
